datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16]([S:17][H:23])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:21])[H:8])([H:6])[H:7].[C:15]([C:16]([S:17][H:23])[H:22])([H:18])([H:19])[H:20],78.6592
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8]([C:9]([S:10][H:15])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:9]([C:8](=[C:7]([H:11])[H:12])[H:13])([S:10][H:15])[H:14],21.7568
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8](#[C:9][C:10]([C:11]([H:14])([H:15])[H:16])[H:13])[H:12]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:10]([C:9]#[C:8][H:12])([C:11]([H:14])([H:15])[H:16])[H:13],24.2672
[C:0]([N:1]([H:5])[H:6])([H:2])([H:3])[H:4].[H:7]>>[C:0]([N:1]([H:5])[H:6])([H:3])[H:4].[H:2][H:7],22.8446
[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([O:5][O:6])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[O:18]([O:19][H:21])[H:20]>>[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([O:5][O:6][H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[O:18][O:19][H:21],41.84
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:4])[H:12])[H:8])([H:5])([H:6])[H:7].[O:13][O:14][H:15]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[O:4])[H:12])([H:5])([H:6])[H:7].[H:8][O:13][O:14][H:15],49.87328
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[H:27])([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[C:22]([C:21]([H:24])([H:25])[H:26])([C:23]([H:28])([H:29])[H:30])[H:27])[H:11])([H:9])[H:10],8.11696
[O:0].[O:1][C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]2[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]([H:21])[c:12]12)([H:13])[H:14]>>[O:0][H:13].[O:1]=[C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]2[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]([H:21])[c:12]12)[H:14],0.0
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17].[C:29]([C:30]([c:31]1[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]([H:44])[c:36]1[H:45])[H:40])([H:37])([H:38])[H:39]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])([c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])[C:30]([C:29]([H:37])([H:38])[H:39])([c:31]1[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]([H:44])[c:36]1[H:45])[H:40])([H:15])([H:16])[H:17],48.7436
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[S:15]([c:16]1[c:17]([H:23])[c:18]([H:24])[c:19]([H:25])[c:20]([H:26])[c:21]1[H:27])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:22])[H:8])([H:6])[H:7].[S:15][c:16]1[c:17]([H:23])[c:18]([H:24])[c:19]([H:25])[c:20]([H:26])[c:21]1[H:27],41.4216
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([O:4][O:5])([H:15])[H:16])[C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([O:4][O:5][H:15])[H:16])[C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:9])([H:10])[H:11],74.0568
[H:3].[N:0](=[O:1])[H:2]>>[H:2][H:3].[N:0]=[O:1],2.76144
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])([S:12][H:20])[H:16])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:16])[H:4].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])[S:12][H:20])([H:13])([H:14])[H:15],33.7649
[C:0]([S:1][S:2][S:3][H:6])([H:4])[H:5]>>[C:0]1([H:4])([H:5])[S:1][S:2]1.[S:3][H:6],50.6264
[O:0]([O:1][C:2]1([H:9])[C:3]([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C:7]1([H:17])[H:18])[H:8]>>[C:2]1([H:9])=[C:3]([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C:7]1([H:17])[H:18].[O:0]([O:1])[H:8],83.68
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10](#[C:11][C:12]([C:13]([H:16])([H:17])[H:18])[H:15])[H:14]>>[C:0](#[C:1][C:2]=[C:3]([C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11]#[C:10][H:14])([C:13]([H:16])([H:17])[H:18])[H:15])[H:6],35.6058
[C:0]([H:1])([H:2])[H:3].[C:4](=[C:5]([H:7])[H:8])[H:6]>>[C:0]([H:1])([H:2])([H:3])[H:7].[C:4](#[C:5][H:8])[H:6],0.0
[C:0]([C:1]([C:2]([O:3][O:4][H:14])([H:12])[H:13])([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])([H:11])[C:2]([H:12])([H:13])[O:3]1.[O:4][H:14],71.9648
